US06555584B1
3-(4-Nitrobenzyloxy)-N-(2-sulfamoylphenyl)benzamide
A benzene (20 ml) solution containing 1.40 (5.1 mmol) of 3-(4-nitrobenzyloxy)benzoic acid and 2 ml of thionyl chloride was heated under reflux for 2 hours and then the solvent was evaporated under a reduced pressure. The resulting residue was dissolved in methylene chloride (20 ml), this solution was added dropwise under ice-cooling to a pyridine (30 ml) solution containing 0.97 g (5.6 mmol) of 2-aminobenzenesulfonamide, the mixture was stirred at room temperature for 18 hours and then methylene chloride was evaporated under a reduced pressure. The resulting residue was dissolved in ethyl acetate, washed with a 1 N hydrochloric acid aqueous solution, water and saturated brine in that order and dried over anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. The thus obtained crude crystals were washed with methanol to obtain 1.9 g (yield: 87.0%) of the title compound.

reactant | 3-(4-nitrobenzyloxy)benzoic acid | [N+](=O)([O-])C1=CC=C(COC=2C=C(C(=O)O)C=CC2)C=C1 | C14H11NO5
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-aminobenzenesulfonamide | 5.6 mmol, 0.97 g | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 3-(4-Nitrobenzyloxy)-N-(2-sulfamoylphenyl)benzamide | 1.9 g, yield: 87.0% | [N+](=O)([O-])C1=CC=C(COC=2C=C(C(=O)NC3=C(C=CC=C3)S(N)(=O)=O)C=CC2)C=C1 | C20H17N3O6S
